US07056918B2
3-Methyl-1-phenyl-5-(5-m-tolyl-1H-imidazol-4-yl)-1,3-dihydro-benzoimidazol-2-one
5-(Bromo-m-tolyl-acetyl)-3-methyl-1-phenyl-1,3-dihydro-benzoimidazol-2-one (prepared from 2-oxo-1-phenyl-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid methoxy-methyl-amide as described in the general procedure, 0.26 gm, 0.60 mmol) was added to 5 mL of 8% water/formamide and the mixture was heated to 140° C. for 14 hours. The reaction mixture was then cooled to room temperature and diluted with 20 mL of ammonium hydroxide with rapid stirring. After stirring for ½ hour, the solid precipitate was filtered and purified by column chromatography (0.5% methanol in ethyl acetate) to afford 75 mg of the title compound. MS (M+1)=381.2

reactant | 5-(Bromo-m-tolyl-acetyl)-3-methyl-1-phenyl-1,3-dihydro-benzoimidazol-2-one | BrC(C(=O)C1=CC2=C(N(C(N2C)=O)C2=CC=CC=C2)C=C1)C=1C=C(C=CC1)C | C23H19BrN2O2
reactant | 2-oxo-1-phenyl-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid methoxy-methyl-amide | CON(C(=O)C1=CC2=C(N(C(N2)=O)C2=CC=CC=C2)C=C1)C | C16H15N3O3
reactant | water formamide | 5 mL | O.C(=O)N
solvent | ammonium hydroxide | 20 mL | [OH-].[NH4+]
product | 3-Methyl-1-phenyl-5-(5-m-tolyl-1H-imidazol-4-yl)-1,3-dihydro-benzoimidazol-2-one | 75 mg | CN1C(N(C2=C1C=C(C=C2)C=2N=CNC2C=2C=C(C=CC2)C)C2=CC=CC=C2)=O | C24H20N4O
